US08183279B2
2,3-Dihydro-5-hydroxy-1H-isoindole hydrochloride (7):
2 g (235.3 mmol) of tert-butyl 5-hydroxy-1,3-dihydroisoindole-2-carboxylate are dissolved in 20 ml of a 4 M hydrogen chloride solution in dioxane. After 1 h at 22° C., the mixture is evaporated to dryness in vacuo. The resultant white crystals (1.4 g (96%) MW 171.6) are employed in the following reactions without further purification.

reactant | tert-butyl 5-hydroxy-1,3-dihydroisoindole-2-carboxylate | 235.3 mmol, 2 g | OC=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C13H17NO3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,3-Dihydro-5-hydroxy-1H-isoindole hydrochloride | Cl.OC=1C=C2CNCC2=CC1 | InChI=1S/C8H9NO.ClH/c10-8-2-1-6-4-9-5-7(6)3-8;/h1-3,9-10H,4-5H2;1H
